US08034811B2
O-(6-Chloro-benzo[1,3]-dioxol-5-ylmethyl)-hydroxylamine hydrochloride
Prepared by a similar procedure as described for preparation 18, starting from N-hydroxyphthalimide and 6-chloropiperonyl chloride (Aldrich). 13C-NMR (DMSO-d6) δ 148.9, 146.5, 126.2, 124.2, 111.1, 109.8, 102.3, 72.7.

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 6-chloropiperonyl chloride | C1OC2=C(O1)C=C(C(=C2)CCl)Cl | C8H6Cl2O2
product | O-(6-Chloro-benzo[1,3]-dioxol-5-ylmethyl)-hydroxylamine hydrochloride | Cl.ClC=1C(=CC2=C(OCO2)C1)CON | InChI=1S/C8H8ClNO3.ClH/c9-6-2-8-7(11-4-12-8)1-5(6)3-13-10;/h1-2H,3-4,10H2;1H
